Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine
 
Attending: ___
 
Chief Complaint:
Hyponatremia

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Mr. ___ is a ___ y/o M with PMH of APCKD s/p CDC high risk 
donor transplant on ___ who presents from ___ with 
hyponatremia. 

The patient was in his USOH and underwent routine laboratory 
testing ___ that showed a Cr elevation from a baseline 
~1.8 to 2.2. The patient was thought to be dry and was 
instructed to increase his PO ydration.  However, the patient 
states that he tries to have a daily fluid intake of 2.5 gallons 
of water/day and this has not changed recently. He returned for 
repeat lab work on ___ and had an impoved Cr to 1.8 but sodium 
of 122. On the day of admission, the patient had repeat labs and 
was found to have a sodium of 121. No MS changes but c/o leg 
cramps. Cr above baseline at 2.1. Decision made to send to ___ 
for management of hyponatremia. 

Notably, on ___, the patient started a religiuos fast.  He 
states that prior to ___, the patient ate 3 regular 
meals/day.  Starting on ___, he started a religious fast. 
He continued to take his medications and drink fluids, but was 
only eating 1 small meal/day of salad.

On arrival to ___, the patient appears well. Has no acute 
complaints. 
  
ROS: (+) as per HPI. A 12-point ROS is otherwise negative. 
  

 
Past Medical History:
- Hepatitis C virus, genotype 1a, viral load 700,000 
international
units per mL. No cirrohisis per ___ fibroscan score of 5.6  
He attempted.  s/p Peginterferon monotherapy ___ with no 
response. He has never experienced complications of liver 
disease including
jaundice, encephalopathy, ascites, and portal hypertensive
bleeding.
- Polycystic kidney disease status post kidney transplant in
___. Received a standard criteria donor kidney 
transplant from a CDC high risk donor on ___.  He had 
delayed graft function initially but subsequently has had 
reasonable renal allograft function.
- Hx of Recurrent peritonitis while he was on peritoneal 
dialysis
- Osteomyelitis, ___
- Epidural abscess ___.  
- Endocarditis ___.
- Hypertention
- Hyperparathyroidism status post subtotal parathyroidectomy
revision ___, thyroid lobectomy.
- Gout.
- Carotid stenosis.
- Restless legs syndrome.
- Depression.
- Chronic pain syndrome.
 
Social History:
___
Family History:
Mother: deceased in her ___, had T2DM
Father: deceased at age ___ from pancreatic cancer. Suffered from 
alcohol and drug abuse
Sisters: ___ sisters have T2DM
Brother: healthy

 
Physical ___:
On Admission:
VS:  t: 97.9 bp: 145/92 hr: 79 rr: 18 100% on RA
General: Appears well, in NAD
HEENT: PERRLA, EOMI, anicteric 
Neck: Supple, no JVD  
CV: RRR, S1 and S2, no m/r/g 
Lungs: CTAB
Abdomen: Soft, NT/ND
GU: No foley
Ext: No edema
Neuro: CN II-XII grossly intact, moving all extremities, alert 
and oriented x 3.

On Discharge:
Vitals: t 98.8 bp 118/62 hr 90 rr 18 100% on RA
BG 123
General: Appears well, in NAD
HEENT: anicteric 
Neck: Supple
CV: RRR, S1 and S2, no m/r/g 
Lungs: CTAB
Abdomen: Soft, NT/ND
GU: No foley
Ext: No edema
Neuro: AAOx3
 
Pertinent Results:
On Admission:
___ 05:50AM BLOOD WBC-2.4*# RBC-4.36* Hgb-14.0# Hct-40.6# 
MCV-93 MCH-32.0 MCHC-34.4 RDW-13.6 Plt ___
___ 04:05PM BLOOD Neuts-44.2* Lymphs-14.6* Monos-40.1* 
Eos-0.5 Baso-0.6
___ 05:50AM BLOOD ___ PTT-35.6 ___
___ 05:50AM BLOOD Glucose-105* UreaN-27* Creat-2.2* Na-124* 
K-5.4* Cl-93* HCO3-25 AnGap-11
___ 05:50AM BLOOD Calcium-9.7 Phos-4.3# Mg-1.3*
___ 05:50AM BLOOD Osmolal-273*
___ 05:50AM BLOOD tacroFK-7.6

On Discharge:
___ 07:31AM BLOOD WBC-4.7# RBC-4.36* Hgb-13.8* Hct-41.4 
MCV-95 MCH-31.6 MCHC-33.3 RDW-13.7 Plt ___
___ 07:31AM BLOOD Glucose-102* UreaN-24* Creat-2.1* Na-133 
K-5.4* Cl-99 HCO3-28 AnGap-11
 
Brief Hospital Course:
Mr. ___ is a ___ year-old man with PMH of APCKD s/p CDC high 
risk donor transplant on ___ who presented from ___ with 
hyponatremia. 

#. Hyponatremia - The patient presented with a sodium of 121. 
This was thought to be related to decreased PO intake recently 
as he has been on a religious fast. Also had been drinking more 
when told to increase hydration for better kidney perfusion (see 
below). Exercises vigorously daily and likely loses salt in that 
setting. The patient's sodium improved while here with simple PO 
intake encouragement. Never had MS changes. Sodium was 133 on 
day of dsicharge. 

#. Renal txpt, AOCKD - The patient's Cr has been elevated since 
___ to 2.2 from a baseline ~1.8. No clear etiology and this 
remained stable while here. He was continued on all 
immunosupressives and taro level was at goal between ___. 
Urinalysis was unremarkable as was a renal ultrasound. Further 
follow-up as an outpatient is warranted. Continued on bactrim 
PPx. 

#. Hyperkalemia - The patient's potassium was elevated in house. 
Never had ECG changes. Switched to a low-K diet and Ace-I 
stopped. Potassium was 5.4 on day of discharge. 

#. Leukopenia - The patient had a mild leukopenia in house. 
Unclear etiology and resolved on its own prior to discharge. Was 
on azithro when admitted for a possible sinus infection, however 
had no infectious symptoms in-house and this was stopped. 

#. HTN - Lisinopril was held due to ___ and hyperkalemia. The 
patient remained normotensive in-house.

#. Osteoporosis - Continued home medications. 

TRANSITIONAL ISSUES:
- Please check chemistry panel and CBC this week. Fax results to 
___ Att: Dr. ___ ___
- Patient to follow-up with Dr. ___ on ___
- Ensure patient is eating three meals daily and staying well 
hydrated. Low potassium diet.
- Monitor BP. ___ need an alternative agent added if becomes 
increasingly hypertensive. Lisinopril was stopped in-house. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 35 mg PO QSUN 
2. Amitriptyline 100 mg PO HS 
3. Cinacalcet 30 mg PO DAILY 
4. Morphine SR (MS ___ 10 mg PO Q12H 
5. Mycophenolate Mofetil 1000 mg PO BID 
6. Vitamin D 50,000 UNIT PO 1X/WEEK (___) 
7. Lisinopril 10 mg PO DAILY 
8. PredniSONE 5 mg PO DAILY 
9. Ranitidine 150 mg PO BID 
10. Sodium Bicarbonate 1300 mg PO BID 
11. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
12. Tacrolimus 3 mg PO Q12H 
13. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Alendronate Sodium 35 mg PO QSUN 
2. Mycophenolate Mofetil 1000 mg PO BID 
3. Amitriptyline 100 mg PO HS 
4. Cinacalcet 30 mg PO DAILY 
5. Morphine SR (MS ___ 10 mg PO Q12H 
6. Multivitamins 1 TAB PO DAILY 
7. PredniSONE 5 mg PO DAILY 
8. Ranitidine 150 mg PO BID 
9. Sodium Bicarbonate 1300 mg PO BID 
10. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
11. Tacrolimus 3 mg PO Q12H 
12. Vitamin D 50,000 UNIT PO 1X/WEEK (___) 
13. Outpatient Lab Work
Please have labs including chemistry and CBC check this coming 
___. Results should be faxed to the ___ transplant 
center Att: Dr. ___ ___.

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Primary: Hyponatremia, Malnourishment

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___!

You were admitted due to a low sodium level. This has since 
improved with eating and drinking. We believe that the low 
sodium was related to a lower food intake during your recent 
fast.

Please continue to eat regular meals and stay hydrated. 
 
Followup Instructions:
___